US08008321B2
Methyl 2-(benzoylamino)-5-[(imidazo[1,5-a]pyridin-3-yl)carbonyl]benzoate
5.2 ml (0.037 mol) of triethylamine and then, under nitrogen atmosphere at 0° C., 10 g (0.035 mol) of 4-oxo-2-phenyl-4H-3,1-benzoxazine-6-carbonyl chloride are added to 1.97 g (0.017 mol) of imidazo[1,5-a]pyridine [described in J. Chem. Soc., (1955), 2834-2836] in 100 ml of acetonitrile. After stirring at ambient temperature for 22 hours, the reaction medium is filtered. The residue obtained is washed with ethyl acetate, with water and with acetone and then dried. 0.32 g (2.65 mmol) of N,N-dimethylpyridine-4-amine is added to 9.75 g (0.026 mol) of the yellow solid obtained above in 50 ml of methanol and 50 ml of N,N-dimethylformamide. After heating at reflux for 22 hours, the reaction medium is filtered. The residue is washed with water and then dried. The product is purified by column chromatography on silica gel, elution being carried out with a mixture of dichloromethane and methanol (99.9/0.1). 3.67 g of a yellow solid are obtained. Melting point: 218° C.; 1H NMR (CDCl3): 4.05 (3H, s), 7.08-7.09 (1H, m), 7.27-7.29 (1H, m), 7.57-7.60 (3H, m), 7.76-7.81 (2H, m), 8.12 (2H, d), 8.78 (1H, d), 9.15 (1H, d), 9.28 (1H, s), 9.88 (1H, d)

reactant | triethylamine | 0.037 mol, 5.2 ml | C(C)N(CC)CC | C6H15N
reactant | 4-oxo-2-phenyl-4H-3,1-benzoxazine-6-carbonyl chloride | 0.035 mol, 10 g | O=C1OC(=NC2=C1C=C(C=C2)C(=O)Cl)C2=CC=CC=C2 | C15H8ClNO3
reactant | imidazo[1,5-a]pyridine | 0.017 mol, 1.97 g | C=1N=CN2C1C=CC=C2 | C7H6N2
reactant | methanol | 50 ml | CO | CH4O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
catalyst | N,N-dimethylpyridine-4-amine | 2.65 mmol, 0.32 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Methyl 2-(benzoylamino)-5-[(imidazo[1,5-a]pyridin-3-yl)carbonyl]benzoate | 3.67 g | C(C1=CC=CC=C1)(=O)NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=NC=C2N1C=CC=C2 | C23H17N3O4
